US06818767B2
To a cooled (0° C.) solution of of 2-(2-methyl-4-pyrrolidin-1-yl-quinolin-7-yloxy)-ethanol (425 mg, 1.56 mmol) in dichloromethane (20 mL) was added triethylamine (0.9 mL, 6.49 mmol) and tosyl chloride (1115 mg, 5.85 mmol). The reaction mixture was stirred 22 h at room temperature. An aqueous solution of NaHCO3 was added. After separation, the organic layer was washed with brine. The brown gum was triturated with diethylether. After filtration, the solid was dried in a high vacuum to give 520 mg (78.1%) of toluene-4-sulfonic acid 2-(2-methyl-4-pyrrolidin-1-yl-quinolin-7-yloxy)-ethyl ester as a light yellow solid. ISP mass spectrum, m/e: 427.5 (M+1 calculated for C23H26N2O4S: 427.5).

reactant | 2-(2-methyl-4-pyrrolidin-1-yl-quinolin-7-yloxy)-ethanol | 1.56 mmol, 425 mg | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)OCCO | C16H20N2O2
reactant | triethylamine | 6.49 mmol, 0.9 mL | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 5.85 mmol, 1115 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | toluene-4-sulfonic acid 2-(2-methyl-4-pyrrolidin-1-yl-quinolin-7-yloxy)-ethyl ester | 520 mg, 78.1% | CC1=NC2=CC(=CC=C2C(=C1)N1CCCC1)OCCOS(=O)(=O)C1=CC=C(C=C1)C | C23H26N2O4S
